US04897415
N-(2,2-Difluoro-1,3-benzodioxol-5-yl)-1,3-dithietan-2-imine, hydrochloride
10.0 g (0.0357 mol) N-(2,2-Difluoro-1,3-benzodioxol-5-yl)-1,3-dithietan-2-imine was dissolved in 300 ml diethyl ether and, under vigorous stirring and ice cooling, hydrogen chloride gas was passed in. The precipitated crystals were separated and dried.

reactant | N-(2,2-Difluoro-1,3-benzodioxol-5-yl)-1,3-dithietan-2-imine | 0.0357 mol, 10.0 g | FC1(OC2=C(O1)C=CC(=C2)N=C2SCS2)F | C9H5F2NO2S2
reactant | hydrogen chloride | Cl | ClH
solvent | diethyl ether | 300 ml | C(C)OCC | C4H10O
product | N-(2,2-Difluoro-1,3-benzodioxol-5-yl)-1,3-dithietan-2-imine, hydrochloride | Cl.FC1(OC2=C(O1)C=CC(=C2)N=C2SCS2)F | InChI=1S/C9H5F2NO2S2.ClH/c10-9(11)13-6-2-1-5(3-7(6)14-9)12-8-15-4-16-8;/h1-3H,4H2;1H
